US04720445
Preparation of Maleimide-Vinyl-2-Ethylhexanoate Copolymer
A polymer was prepared in the manner of Example 1, except the comonomer to maleimide was vinyl-2-ethylhexanoate (vinyl ester) and the reaction time was 25 hours. The polymer yield was 57%.

reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | vinyl-2-ethylhexanoate | C(=C)OC(C(CCCC)CC)=O | C10H18O2
product | Maleimide Vinyl-2-Ethylhexanoate | yield was 57% | C1(C=CC(N1)=O)=O.C(=C)OC(C(CCCC)CC)=O | InChI=1S/C10H18O2.C4H3NO2/c1-4-7-8-9(5-2)10(11)12-6-3;6-3-1-2-4(7)5-3/h6,9H,3-5,7-8H2,1-2H3;1-2H,(H,5,6,7)
